US05714496
A mixture of 3-ethenyl-3-hydroxyquinuclidine (673 mg), 3-(4-bromophenyl)pyridine (1.08 g), bis-(triphenylphosphine)-palladium (II) chloride (140 mg), copper (I) iodide (70 mg), and dimethylformamide (10 ml) was stirred at 130° C. under an atmosphere of argon for 4 hours. The mixture was evaporated and the residue was paritioned between aqueous 2M sodium hydroxide solution (10 ml) and dichloromethane (10 ml). The organic layer was separated, washed with dichloromethane (2×10 ml), dried (MgSO4) and evaporated. The residue was crystallised from acetonitrile to give 3-[2-(4-[3-pyridyl]phenyl)ethenyl]-3-hydroxyquinuclidine (400 mg) as a solid, m.p. 195°-198° C.; microanalysis, found: C, 76.4; H, 7.2; N, 8.6%; C20H22N2O.0.5H2O requires: C, 76.2; H, 7.3; N, 8.9%; NMR (DMSO-d6 +CD3COOD): 1.7-2.15(4H, m), 2.35(1H, m), 3.15-3.4(5H, m), 3.5(1H, d), 6.7(1H, d), 6.9(1H, d), 7.5-7.8(7H, m), 8.15(1H, d); m/Z 307 (M+H).

reactant | 3-ethenyl-3-hydroxyquinuclidine | 673 mg | C(=C)C1(CN2CCC1CC2)O | C9H15NO
reactant | 3-(4-bromophenyl)pyridine | 1.08 g | BrC1=CC=C(C=C1)C=1C=NC=CC1 | C11H8BrN
catalyst | bis-(triphenylphosphine)-palladium (II) chloride | 140 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 70 mg | [Cu]I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[2-(4-[3-pyridyl]phenyl)ethenyl]-3-hydroxyquinuclidine | 400 mg | N1=CC(=CC=C1)C1=CC=C(C=C1)C=CC1(CN2CCC1CC2)O | C20H22N2O
